US04788130
5.0 Grams of 4,6-dimethyl-7-hydroxy-2-phenyl-1-indanone was dissolved in 10 ml of diethyl ether and 10 ml of dichloromethane, then this solution was added dropwise gradually to a mixture of a solution of 2.55 ml of benzylamine in 10 ml of diethyl ether with 8 g of Molecular sieves 5A. The whole mixture was stirred at room temperature for 2 days and filtered by using Celite to obtain filtrate. The Celite used was washed with dichloromethane and ethanol, then these washing liquors were combihed with the above-mentioned filtrate and concentrated. Recrystallized from dichloromethane-ethanol to obtain 3.83 g of 4,6-dimethyl-7-hydroxy-1-benzylamino-2-phenyl-3H-indene. Orange needle-like crystals.

reactant | 4,6-dimethyl-7-hydroxy-2-phenyl-1-indanone | CC1=C2CC(C(C2=C(C(=C1)C)O)=O)C1=CC=CC=C1 | C17H16O2
reactant | benzylamine | 2.55 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
product | 4,6-dimethyl-7-hydroxy-1-benzylamino-2-phenyl-3H-indene | 3.83 g | CC1=C2CC(=C(C2=C(C(=C1)C)O)NCC1=CC=CC=C1)C1=CC=CC=C1 | C24H23NO
